US08871429B2
Synthesis of silver mono nitro-benzo[b]thiophene-2-sulfonate
To a solution of mono nitro-benzothiophene-2-sulfonate (0.5177 g, 1.86 mmol) in 50 mL of acetonitrile and 1 mL of water was added silver carbonate (0.6169 g, 2.24 mmol) in portions in darkness. The resulting suspension was stirred overnight for 9 days, until no starting material is shown on the thin layer chromatography with an eluent of hexane/ethyl acetate (1:4). The mixture was filtered through half an inch of Celite® and the solid was washed with 3×40 mL acetonitrile. The organic filtrate was combined and organic solvent was removed via rotary evaporator to dryness and thus afforded 0.668 g of viscous solid with a yield of 98.2%. The resulting compound was not purified for further reactions.

reactant | mono nitro-benzothiophene-2-sulfonate | 1.86 mmol, 0.5177 g | [N+](=O)([O-])C1=C(SC2=C1C=CC=C2)S(=O)(=O)[O-]
reactant | silver carbonate | 2.24 mmol, 0.6169 g | C([O-])([O-])=O.[Ag+2]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
product | silver mono nitro-benzo[b]thiophene-2-sulfonate | yield of 98.2% | [N+](=O)([O-])C=1C2=C(SC1S(=O)(=O)[O-])C=CC=C2.[Ag+] | InChI=1S/C8H5NO5S2.Ag/c10-9(11)7-5-3-1-2-4-6(5)15-8(7)16(12,13)14;/h1-4H,(H,12,13,14);/q;+1/p-1
